* MOSFET Transient Analysis Simulation
* Benchmark contract: mosfet-fixed-native-v1
.option temp=27 tnom=27
.option gmin=1e-15
.option reltol=1e-6
.option abstol=1e-12
.option chgtol=1e-15
.option method=gear
.option TEMP=27
.option TNOM=27
.option TEMPSCALE=1.0

* Fixed-fixture model binding (path and card names are the only substitutions)
.inc '/home/duhaochen/pipeline_sky130_mos/benchmark-inputs/807aff9f43f8a4018247e02a6dea0f24/ngspice.lib'

* ----------------------------------------------------------
* MOSFET device under test - explicit collection-wide default geometry
* ----------------------------------------------------------
M_tran drain_tran gate_tran source_tran bulk_tran __benchmark_selected_nmos L=1u W=10u

* Large-Signal Transient Analysis Circuit
* Pulse input source for gate
Vgs_tran gate_tran 0 PULSE(0 1.2 0n 0.5n 0.5n 10n 20n)
Vds_tran drain_tran 0 DC 1.2
Vs_tran source_tran 0 DC 0
Vb_tran bulk_tran 0 DC 0

* Load capacitor to see switching behavior
Cload drain_tran 0 1f

* ----------------------------------------------------------
* Switching Simulation Circuit (inverter)
* ----------------------------------------------------------
M_inv_n out_inv in_inv 0 0 __benchmark_selected_nmos L=1u W=10u
M_inv_p out_inv in_inv vdd_inv vdd_inv __fixture_pmos L=1u W=20u

Vdd_inv vdd_inv 0 DC 1.2
Vin_inv in_inv 0 PULSE(0 1.2 0n 0.5n 0.5n 10n 20n)

Cload_inv out_inv 0 1f

* Delay Effect Circuit - Chain of inverters
Vdd_delay vdd_delay 0 DC 1.2
Vin_delay in_delay 0 PULSE(0 1.2 0n 0.5n 0.5n 10n 20n)

* ----------------------------------------------------------
* First inverter
* ----------------------------------------------------------
M_d1_n mid1_delay in_delay 0 0 __benchmark_selected_nmos L=1u W=10u
M_d1_p mid1_delay in_delay vdd_delay vdd_delay __fixture_pmos L=1u W=20u

Cload_d1 mid1_delay 0 1f

* ----------------------------------------------------------
* Second inverter
* ----------------------------------------------------------
M_d2_n mid2_delay mid1_delay 0 0 __benchmark_selected_nmos L=1u W=10u
M_d2_p mid2_delay mid1_delay vdd_delay vdd_delay __fixture_pmos L=1u W=20u

Cload_d2 mid2_delay 0 1f

* ----------------------------------------------------------
* Third inverter (output)
* ----------------------------------------------------------
M_d3_n out_delay mid2_delay 0 0 __benchmark_selected_nmos L=1u W=10u
M_d3_p out_delay mid2_delay vdd_delay vdd_delay __fixture_pmos L=1u W=20u

Cload_d3 out_delay 0 1f

* ----------------------------------------------------------
* Power Dissipation Circuit
* ----------------------------------------------------------
M_power_n out_power in_power 0 0 __benchmark_selected_nmos L=1u W=10u
M_power_p out_power in_power vdd_power vdd_power __fixture_pmos L=1u W=20u

Vdd_power vdd_power 0 DC 1.2
Vin_power in_power 0 PULSE(0 1.2 0n 0.5n 0.5n 10n 20n)
Cload_power out_power 0 1f

* Charge Conservation Test Circuit using capacitance approach
* Instead of direct charge extraction, we'll measure capacitances and integrate
Vdd_charge vdd_charge 0 DC 1.2
Vg_charge gate_charge 0 PULSE(0 1.2 0n 1n 1n 10n 20n)

* ----------------------------------------------------------
* MOS for charge conservation test
* ----------------------------------------------------------
M_charge drain_charge gate_charge source_charge bulk_charge __benchmark_selected_nmos L=1u W=10u

Vd_charge drain_charge 0 DC 1.2
Vs_charge source_charge 0 DC 0
Vb_charge bulk_charge 0 DC 0

* Capacitors to measure charges (small value to avoid affecting circuit)
Cg gate_charge 0 1e-18
Cd drain_charge 0 1e-18
Cs source_charge 0 1e-18
Cb bulk_charge 0 1e-18

* ----------------------------------------------------------
* Quasi-Static Analysis Circuit with improved convergence
* ----------------------------------------------------------
M_qs drain_qs gate_qs source_qs bulk_qs __benchmark_selected_nmos L=1u W=10u

Vgs_qs gate_qs 0 PULSE(0 1.2 0n 20n 20n 100n 200n)
Vds_qs drain_qs 0 DC 1.2
Vs_qs source_qs 0 DC 0
Vb_qs bulk_qs 0 DC 0

Cload_qs drain_qs 0 10f

* Control block
.control
set filetype=ascii
set wr_vecnames
set wr_singlescale
set wr_formatted
set numdgt=15

* Transient Analysis Commands

* Run Large-Signal Transient Analysis
echo "Starting large-signal transient analysis"
tran 0.01n 100n
* Save current through drain, gate, source, and voltages
wrdata ./tran_large_signal.txt time v(gate_tran) v(drain_tran) i(Vds_tran) i(Vgs_tran) i(Vs_tran) i(Vb_tran)

* Run Switching Analysis (inverter)
echo "Starting switching analysis"
tran 0.01n 100n
* Save input and output voltage, as well as current through power supply
wrdata ./tran_switching.txt time v(in_inv) v(out_inv) i(Vdd_inv)

* Calculate switching power
let power_switching = -v(vdd_inv)*i(Vdd_inv)
wrdata ./tran_switching_power.txt time power_switching

* Run Delay Effect Analysis
echo "Starting delay effect analysis"
tran 0.01n 100n
* Save input, intermediate, and output voltage waveforms
wrdata ./tran_delay.txt time v(in_delay) v(mid1_delay) v(mid2_delay) v(out_delay)

* Run Power Dissipation Analysis at different temperatures
echo "Starting power dissipation analysis"

* Temperature 27°C (room temperature)
option temp=27
tran 0.01n 100n
let power_diss = -v(vdd_power)*i(Vdd_power)
let energy = integ(power_diss)
* Save time, input, output, power, and energy
wrdata ./tran_power_27C.txt time v(in_power) v(out_power) power_diss energy

* Temperature 100°C
option temp=100
tran 0.01n 100n
let power_diss = -v(vdd_power)*i(Vdd_power)
let energy = integ(power_diss)
wrdata ./tran_power_100C.txt time v(in_power) v(out_power) power_diss energy

* Run Quasi-Static Analysis with an operating-point initialization
echo "Starting quasi-static analysis"
option temp=27
option minbreak=1e-15
* Use slower rise/fall times to observe quasi-static behavior
tran 0.1n 500n
* Save gate voltage, drain voltage and drain current
let id_qs = i(Vds_qs)
wrdata ./tran_quasi_static.txt time v(gate_qs) v(drain_qs) id_qs

* Run Charge Conservation Analysis using an alternative approach
echo "Starting charge conservation analysis"
option temp=27
* Modified approach that doesn't rely on direct charge extraction
tran 0.01n 100n
* Calculate terminal currents
let ig_charge = i(Vg_charge)
let id_charge = i(Vd_charge)
let is_charge = i(Vs_charge)
let ib_charge = i(Vb_charge)
* Calculate total current (should be close to zero for conservation)
let i_total = ig_charge + id_charge + is_charge + ib_charge
* Calculate charges by integrating currents
let qg_approx = integ(ig_charge)
let qd_approx = integ(id_charge)
let qs_approx = integ(is_charge)
let qb_approx = integ(ib_charge)
let q_total = qg_approx + qd_approx + qs_approx + qb_approx
* Save the results
wrdata ./tran_charge.txt time v(gate_charge) ig_charge id_charge is_charge ib_charge i_total qg_approx qd_approx qs_approx qb_approx q_total

echo "Transient analysis simulations completed"
quit
.endc

.end
